US08633173B2
[8-(2-methoxy-5-trifloromethylphenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[3-(4-methyl-piperazin-1-yl)-phenyl]-amine was prepared from 2-chloro-8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (0.150 g, 0.5 mmol), and 3-(4-methylpiperazin-1-yl)phenylamine (0.096 g, 0.5 mmol) in a manner analogous to Example 2d. Product was isolated as a foam (0.19 g, 86%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.45 (d, J=6.4 Hz, 1H), 7.91 (s, 1H), 7.68 (d, J=7.7 Hz, 1H), 7.53 (d, J=6.4 Hz, 1H), 7.26-7.19 (m, 2H), 7.12 (d, J=7.7 Hz, 1H), 7.04 (d. J=7.7 Hz, 1H), 6.95 (t, J=7.7 Hz, 1H), 6.83 (s, 1H), 6.58 (d, J=7.7 Hz, 1H), 3.88 (s, 3H), 3.28-3.22 (m, 4H), 2.64-2.55 (m, 4H), 2.37 (s, 3H). MS=483 (MH)+.

reactant | 2-chloro-8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 0.5 mmol, 0.150 g | ClC1=NN2C(C(=CC=C2)C2=C(C=CC(=C2)C(F)(F)F)OC)=N1 | C14H9ClF3N3O
reactant | 3-(4-methylpiperazin-1-yl)phenylamine | 0.5 mmol, 0.096 g | CN1CCN(CC1)C=1C=C(C=CC1)N | C11H17N3
product | [8-(2-methoxy-5-trifloromethylphenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[3-(4-methyl-piperazin-1-yl)-phenyl]-amine | COC1=C(C=C(C=C1)C(F)(F)F)C=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)N2CCN(CC2)C | C25H25F3N6O
